US04337267
11.2 g of 2-[3-(5-chloro-2-methoxyphenyl)propyloxy]-ethanol and 20 ml thionyl chloride are stirred at 50° C. for 3 hours; the excess thionyl chloride is distilled off in vacuo. 11.3 g of 2[3-(5-chloro-2-methoxyphenyl)propyloxy]ethyl chloride are obtained as a brown oil.

reactant | 2-[3-(5-chloro-2-methoxyphenyl)propyloxy]-ethanol | 11.2 g | ClC=1C=CC(=C(C1)CCCOCCO)OC | C12H17ClO3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2[3-(5-chloro-2-methoxyphenyl)propyloxy]ethyl chloride | 11.3 g | ClC=1C=CC(=C(C1)CCCOCCCl)OC | C12H16Cl2O2
